US07772408B1
Synthesis of 5-hydroxypsoralen (bergaptol)
A solution of iodine (1.0 g, 4 mmol) and magnesium (0.2 g, 8 mmol) was stirred in anhydrous ether (30 ml) under reflux until colourless to prepare magnesium iodide. Bergapten (1.0 g, 4.5 mmol) was suspended in anhydrous ether and added to the solution. After heating the mixture to reflux for 45 min, the solvent was removed under reduced pressure. The residue was dried at 120° C. for 30 min, kept at 160-165° C. for 90 min, and decomposed with 25% sulfuric acid. The crude product was filtered, washed with a solution of thiosulfate, dried, and used for the synthesis of the 5-phenylalkoxy- and 5-cyclohexylalkoxypsoralens without further purification.

reactant | iodine | 4 mmol, 1.0 g | II | I2
reactant | magnesium | 8 mmol, 0.2 g | [Mg] | Mg
reactant | magnesium iodide | [I-].[Mg+2].[I-]
reactant | Bergapten | 4.5 mmol, 1.0 g | COC1=C2C=COC2=CC3=C1C=CC(=O)O3 | C12H8O4
solvent | ether | 30 ml | CCOCC | C4H10O
product | 5-hydroxypsoralen | C1=COC=2C1=C(C3=C(C2)OC(=O)C=C3)O | C11H6O4
